US05705531
To a suspension of 23.0 g of (3-hydroxypropyl)triphenylphosphonium bromide in 280 ml of anhydrous THF cooled at -25° C., 36.0 ml of 1.6N n-butyllithium in n-hexane were added dropwise under a nitrogen atmosphere and the mixture was stirred at -25° C. for 1 hr. A solution of 3.20 g of (1S,3aS,5S,7aR)-1-acetoxymethyl-3a-hydroxy-5-formyl-7a-methylperhydroindene in 32 ml of anhydrous THF was added and the reaction mixture was kept at -20° C. for 4 hrs, then warmed to room temperature and stirred for 3 hrs. The mixture was diluted with 5% aqueous NaH2PO4.H2 O, concentrated under reduced pressure and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash-chromatography (SiO2) with n-hexane/chloroform/acetone 6:2:2 to give 2.23 g of (1S,3aS,5S,7aR)-1-acetoxymethyl-5-[(E)-4-hydroxy-1-butenyl)-7a-methylperhydro-inden-3a-ol from which, by reaction with tert-butyldimethyl-chlorosilane, following the procedure, described in Prepn. 1, 2.94 g of (1S,3aS,5S,7aR)-1-acetoxymethyl-5-[(E)-4-tert-butyldimethylsilyl-oxy-1-butenyl)-7a-methylperhydroinden-3a-ol were obtained as a white foam.

reactant | (3-hydroxypropyl)triphenylphosphonium bromide | 23.0 g | [Br-].OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.6N, 36.0 ml | C(CCC)[Li]
reactant | (1S,3aS,5S,7aR)-1-acetoxymethyl-3a-hydroxy-5-formyl-7a-methylperhydroindene | 3.20 g | C(C)(=O)OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C=O)O | C14H22O4
solvent | THF | 280 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 32 ml | C1CCOC1 | C4H8O
product | (1S,3aS,5S,7aR)-1-acetoxymethyl-5-[(E)-4-hydroxy-1-butenyl)-7a-methylperhydro-inden-3a-ol | 2.23 g | C(C)(=O)OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)\C=C\CCO)O | C17H28O4
